US04710491
N-Octadecyl-L-fucopyranosylamine
3.26 g of L-fucose and 5.38 g of stearylamine were heated at 70° C. in 20 ml of ethanol, with stirring, until a clear solution had formed. The solution was allowed to cool and, when crystallization had ended, the solid was filtered off with suction and washed with ethanol and ether.

reactant | L-fucose | 3.26 g | O=C[C@@H](O)[C@H](O)[C@H](O)[C@@H](O)C | C6H12O5
reactant | stearylamine | 5.38 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-Octadecyl-L-fucopyranosylamine | C(CCCCCCCCCCCCCCCCC)NC1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C | C24H49NO4
